US04492692
To a suspension of 3-acetoxymethyl-7-(3-allylimidazol-2-yl)aminoceph-3-em-4-carboxylic acid (0.038 g.) and 2-mercapto-1,3,4-thiadiazole (0.012 g.) in acetonitrile (0.2 ml.) was added boron trifluoride etherate (48% w/w, 32 μl) and the mixture heated at 60° for 2.5 hours. The solvent was evaporated and the residue dissolved in water/MeOH/HOAc 70:30:1 v/v/v (2 ml.). The solution was decanted from the residual tar and then purified by HPLC using water/MeOH/HOAc 70:30:1 then 60:40:1 v/v/v as eluants to give 7-(3-allylimidazol-2-yl)amino-3-(1,3,4-thiadiazol-2-yl)thiomethylceph-3-em-4-carboxylic acid (5 mg.) having the following n.m.r. in d6DMSO+CD3CO2D: 3.20 (d, 2H); 3.50 (d, 1H); 3.75 (d, 1H); 4.31 (d, 1H); 4.60 (d, 1H); 5.0-5.38 (m, 3H); 5.52 (d, 1H); 5.8 (m, 1H); 6.5 (s, 1H); 9.49 (s, 1H).

reactant | 3-acetoxymethyl-7-(3-allylimidazol-2-yl)aminoceph-3-em-4-carboxylic acid | 0.038 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC2=NC=CN2CC=C)=O | C16H18N4O5S
reactant | 2-mercapto-1,3,4-thiadiazole | 0.012 g | SC=1SC=NN1 | C2H2N2S2
reactant | boron trifluoride etherate | 32 μl | B(F)(F)F.CCOCC
solvent | acetonitrile | 0.2 ml | C(C)#N | C2H3N
product | 7-(3-allylimidazol-2-yl)amino-3-(1,3,4-thiadiazol-2-yl)thiomethylceph-3-em-4-carboxylic acid | 5 mg | C(C=C)N1C(=NC=C1)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C16H16N6O3S3
